US05135914
Step A: Preparation of N-[3-(1-Naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine
In process analogous to Example H by substituting α-(1-naphthalenylmethyl)-1-naphthalenepropanoic acid (obtained by reacating di-tertiary-butylmalonate (one equivalent) with 1-chloromethylnaphthylene (two equivalents) and sodium hydride (two equivalents) followed by refluxing in acetic acid) for N-[(phenylmethoxy)carbonyl]-1-(triphenylmethyl)-L-histidine and Nε -carbobenzoxy-lysine, methyl ester for (3S)-3-amino-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester, monohydrochloride (mixture of isomers at hydroxy center) one obtains the methyl ester of the title compound which is then hydrolyzed with sodium hydroxide in aqueous methanol to afford the title compound.

reactant | N-[(phenylmethoxy)carbonyl]-1-(triphenylmethyl)-L-histidine | C1(=CC=CC=C1)COC(=O)N[C@@H](CC1=CN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O | C33H29N3O4
reactant | Nε -carbobenzoxy-lysine, methyl ester | C(=O)(OCC1=CC=CC=C1)NCCCC[C@H](N)C(=O)OC | C15H22N2O4
reactant | (3S)-3-amino-2-hydroxy-5-methylhexanoic acid, 1-methylethyl ester, monohydrochloride | Cl.N[C@H](C(C(=O)OC(C)C)O)CC(C)C
product | N-[3-(1-Naphthalenyl)-2-(1-naphthalenylmethyl)-1-oxopropyl]-N6 -[(phenylmethoxy)carbonyl]-L-lysine | C1(=CC=CC2=CC=CC=C12)CC(C(=O)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O)CC1=CC=CC2=CC=CC=C12 | C38H38N2O5
